US06544984B1
Methyl 2-((2-amino-5-fluorobenzyl){[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-hydroxypropanoate
Methyl 2-{(5-fluoro-2-nitrobenzyl)[(4-methoxyphenyl)sulfonyl]amino}-3-hydroxypropanoate (1.0 g, 2.08 mmol) was dissolved in ethanol (18 mL). To this was added tin chloride dihydrate (2.35 g, 10.4 mmol) and the reaction was heated to 70° C. for 2 hours. The reaction was then cooled to room temperature and ice water followed by NaHCO3 was added to bring the solution to pH 8. Ethyl acetate was added and the suspension was filtered through celite. The organic layer was separated and washed with brine, dried over Na2SO4 concentrated in vacuo and chromatographed using 1:1 hexane:ethyl acetate as eluant to provide 0.55 g (58%) of the desired product as a yellow oil.

reactant | Methyl 2-{(5-fluoro-2-nitrobenzyl)[(4-methoxyphenyl)sulfonyl]amino}-3-hydroxypropanoate | 2.08 mmol, 1.0 g | FC=1C=CC(=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C1)[N+](=O)[O-] | C18H19FN2O8S
reactant | tin chloride dihydrate | 10.4 mmol, 2.35 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | Methyl 2-((2-amino-5-fluorobenzyl){[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-hydroxypropanoate | 0.55 g, 58% | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OCC#CC)C=C(C=C1)F | C21H23FN2O6S
